US07943605B2
A catalytic amount of concentrated sulfuric acid is added to a solution of 1-(4-hydroxyphenyl)-5-oxopyrrolidine-3-carboxylic acid a50 (3.7 g, 16.7 mmol, 1 eq) in methanol (100 ml) and the mixture is heated at reflux overnight. The solvent is then removed under vacuum, and the residue is dissolved into ethyl acetate. The organic layer is washed with a saturated solution of aqueous sodium hydrogenocarbonate, dried over magnesium sulfate and concentrated under vacuum to afford 3.5 g of methyl 1-(4-hydroxyphenyl)-5-oxopyrrolidine-3-carboxylate a51.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1-(4-hydroxyphenyl)-5-oxopyrrolidine-3-carboxylic acid | OC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C11H11NO4
reactant | methanol | 100 ml | CO | CH4O
product | methyl 1-(4-hydroxyphenyl)-5-oxopyrrolidine-3-carboxylate | 3.5 g, Yield: 89% | OC1=CC=C(C=C1)N1CC(CC1=O)C(=O)OC | C12H13NO4
